US07517995B2
benzyl [2-(2-oxo-butylcarbamoyl)-ethyl]-carbamate
2.20 ml (26.05 mmol) oxalyl chloride are placed in 10 ml dichloromethane, the solution is cooled to −53° C. 2.45 ml (34.49 mmol) dimethylsulphoxide in 5 ml dichloromethane are slowly added dropwise, the mixture is stirred for 0.25 hours, then a solution of 6.30 g (21.40 mmol) benzyl[2-(2-hydroxy-butylcarbamoyl)-ethyl]-carbamate in 30 ml dichloromethane is added. The mixture is stirred for 1.5 hours at −60° C., then 12.60 ml triethylamine are added dropwise. The suspension is stirred for 1 hour at −50° C., then within 16 hours allowed to come up to ambient temperature. The reaction mixture is diluted with dichloromethane, extracted with 1 molar hydrochloric acid, 1 molar sodium carbonate solution and water. The organic phase is dried and evaporated to dryness.

reactant | oxalyl chloride | 26.05 mmol, 2.20 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulphoxide | 34.49 mmol, 2.45 ml | CS(=O)C | C2H6OS
reactant | benzyl[2-(2-hydroxy-butylcarbamoyl)-ethyl]-carbamate | 21.40 mmol, 6.30 g | C(C1=CC=CC=C1)OC(NCCC(NCC(CC)O)=O)=O | C15H22N2O4
reactant | triethylamine | 12.60 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | benzyl [2-(2-oxo-butylcarbamoyl)-ethyl]-carbamate | O=C(CNC(=O)CCNC(OCC1=CC=CC=C1)=O)CC | C15H20N2O4
